US07615557B2
A solution of crude diethyl (2-nitrobenzyl)malonate in 6N aqueous HCl (15 ml) and acetic acid (15 ml) was stirred at refluxing temperature for 48 hours. After cooled to ambient temperature, the mixture was concentrated under reduced pressure. To the residue was added 10% aqueous NaOH solution and washed with ethyl acetate. The aqueous layer was acidified with aqueous HCl solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure to obtain 3-(2-nitrophenyl)propanoic acid.

reactant | diethyl (2-nitrobenzyl)malonate | [N+](=O)([O-])C1=C(CC(C(=O)OCC)C(=O)OCC)C=CC=C1 | C14H17NO6
solvent | HCl | 6N, 15 ml | Cl | ClH
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 3-(2-nitrophenyl)propanoic acid | [N+](=O)([O-])C1=C(C=CC=C1)CCC(=O)O | C9H9NO4
